US05976497
A solution of 2,5-dibromo piperazine (1.59 g, 8 mmole), and piperazine(1.45 g, 16 mmole), and potassium carbonate (6 g) in acetonitrile (50 mL) was heated at reflux for 48 h. The heating was discontinued and the solution allowed to cool to room temperature. The solid was filtered off and washed with acetonitrile (50 mL). The organics were concentrated to a tan solid. The product was purified by column chromatography on silica gel using dichloromethane:methanol:triethylamine (94:5:1) as eluent to provide (5-bromopyridin-2-yl)-piperazine as an offwhite solid (1.75 g, 95%). δH (300 MHz CDCl3) 1.75 (1H, br s), 2.95 (4H, m, piperaziny), 3.45 (4H, m, piperazinyl), 6.52 (1H, d, J=9.0), 7.51 (1H, dd, J=2.5 and 9.0), 8.17 (1H, d, J=2.4), ESMS 243 (MH+).

reactant | 2,5-dibromo piperazine | 8 mmole, 1.59 g | BrC1NCC(NC1)Br | C4H8Br2N2
reactant | piperazine | 16 mmole, 1.45 g | N1CCNCC1 | C4H10N2
reactant | potassium carbonate | 6 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | (5-bromopyridin-2-yl)-piperazine | BrC=1C=CC(=NC1)N1CCNCC1 | C9H12BrN3
